US04423047
2-(3-Oxobuten-1-yl)thio-5-chloropyrimidine
3-Butyn-2-one (5 mmol) in chloroform (25 ml) was added dropwise over 10 min at room temperature to a stirred suspension of 5-chloropyrimidine-2-thione (4.5 mmol) in chloroform (25 ml). The mixture was stirred for an additional 10 min before the solvent was evaporated. The residue was crystallized from methanol; yield 72%, m.p. 89° C. 1H NMR (CDCl3): δ2.20 (Me-(Z)), 2.23 (Me-(E)), 6.52 (Hα, d, J 18 Hz (E)), 6.58 (Hα, d, J 10 Hz (Z)), 8.43 (Hβ, d, J 10 Hz (Z)), 8.57 (Hβ, d, J 18 Hz (E)), 8.62 (H-4, H-6); (E)/(Z)=1:1. IR (KBr): 1660 cm-1 (CO).

reactant | 3-Butyn-2-one | 5 mmol | CC(C#C)=O | C4H4O
reactant | 5-chloropyrimidine-2-thione | 4.5 mmol | ClC=1C=NC(NC1)=S | C4H3ClN2S
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Oxobuten-1-yl)thio-5-chloropyrimidine | yield 72% | O=C(C=CSC1=NC=C(C=N1)Cl)C | C8H7ClN2OS
